US07064215B2
Synthesis of 4-Ethoxy-1H-indole
4-Hydroxyindole (1.0 equivalents) is dissolved in dry, degassed acetone. EtBr (5.0 equivalents) and Cs2CO3 (2.5 equivalents) are added, and the resulting solution is stirred for 18 hours. The reaction mixture is filtered through a Celite plug. The solvent is evaporated, and the product is purified by flash chromatography (MeOH:CH2Cl2, 5:95) to yield the title compound.

reactant | 4-Hydroxyindole | 1.0 equivalents | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | EtBr | 5.0 equivalents | C(C)Br | C2H5Br
reactant | Cs2CO3 | 2.5 equivalents | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 4-Ethoxy-1H-indole | C(C)OC1=C2C=CNC2=CC=C1 | C10H11NO
